US07919621B2
Step 1: 3-(5-Phenyl-[1,2,4]triazolo[4,3-a]quinolin-8-ylsulfanyl)-benzoic acid (11a)
8-Iodo-5-phenyl-[1,2,4]triazolo[4,3-a]quinoline (250 mg, 0.67 mmol), 3-mercaptobenzoic acid (120 mg, 0.81 mmol), iPr2NEt (0.36 mL, 2.1 mmol), Pd2dba3 (15 mg, 0.02 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (19 mg, 0.03 mmol) were dissolved in 1,4-dioxane and degassed with N2. The reaction was then sealed and heated to 70° C. for 30 minutes, followed by cooling to room temperature, filtration, and concentration to give the desired product, 11a.

reactant | 8-Iodo-5-phenyl-[1,2,4]triazolo[4,3-a]quinoline | 0.67 mmol, 250 mg | IC1=CC=C2C(=CC=3N(C2=C1)C=NN3)C3=CC=CC=C3 | C16H10IN3
reactant | 3-mercaptobenzoic acid | 0.81 mmol, 120 mg | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | iPr2NEt | 2.1 mmol, 0.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.03 mmol, 19 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.02 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(5-Phenyl-[1,2,4]triazolo[4,3-a]quinolin-8-ylsulfanyl)-benzoic acid | C1(=CC=CC=C1)C1=CC=2N(C3=CC(=CC=C13)SC=1C=C(C(=O)O)C=CC1)C=NN2 | C23H15N3O2S
